US09359286B2
A solution of (3S)-1-amino-3-(4-bromophenyl)cyclopentanecarboxylic acid (10.2 g, 35.9 mmol) in MeOH (100 mL) was cooled in an ice bath, followed by addition of SOCl2 (15.72 mL, 215 mmol) dropwise. After the addition was complete, the solution was refluxed for 3 hrs at which time the reaction was determined to be complete by HPLC. The solution was concentrated to remove methanol to afford a solid. The solid was taken in 50 ml of 3% H2O in EtOAc and stirred well for 30 mins. The white solid formed was collected by filtration. The wet white solid was taken in 50 ml of 4% H2O in 1,2-dimethoxyethane and heated to 50° C. for 3 hrs, and then stirred at room temperature overnight. The resulting white solid was collected by filtration and dried to afford (1R,3S)-methyl 1-amino-3-(4-bromophenyl)cyclopentanecarboxylate hydrochloride (3.5 g, 10.35 mmol). HPLC retention time=6.6 min (Condition H) LC/MS M+1=298/300. 1H NMR (400 MHz, DMSO-d6) δ 8.95 (br. s, 3H) 7.50-7.53 (m, 2H), 7.35-7.37 (m, 2H), 3.81 (s, 3H) 3.17-3.28 (m, 1H), 2.57 (dd, J=14, 7 Hz, 1H), 2.0-2.28 (m, 5H).

reactant | (3S)-1-amino-3-(4-bromophenyl)cyclopentanecarboxylic acid | 35.9 mmol, 10.2 g | NC1(C[C@H](CC1)C1=CC=C(C=C1)Br)C(=O)O | C12H14BrNO2
reactant | SOCl2 | 215 mmol, 15.72 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 100 mL | CO | CH4O
solvent | H2O | 50 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,3S)-methyl 1-amino-3-(4-bromophenyl)cyclopentanecarboxylate hydrochloride | 10.35 mmol, 3.5 g | Cl.N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)Br)C(=O)OC | InChI=1S/C13H16BrNO2.ClH/c1-17-12(16)13(15)7-6-10(8-13)9-2-4-11(14)5-3-9;/h2-5,10H,6-8,15H2,1H3;1H/t10-,13+;/m0./s1
